### PR TITLE
Add `Nat.Binary.Minus`

### PR DESCRIPTION
**Pull request by mechvel**
New    src/Algebra/Morphism/ToSetoid.agda,    src/Algebra/Morphism/TwoMagmas.agda
          src/Data/Nat/Binary/Minus.agda;
Changed:   src/Data/Nat/Binary/Properties.agda,   src/Data/Nat/Properties.agda.

Please, consider this commit of December 28, 2019.
 All your notes on the previous  Binary.Minus version are taken in account.
* (1) New Data.Nat.Binary.Minus committed. 
* (2) New Minus requires certain small additions to Binary.Properties. These additions are done.                                                                                
* (3) G. Allais suggested to simplify the proof for `Binary.Minus.fromℕ-homo-∸`   by using a certain generic function for Homomorphism.  This simplification is done for ``_+_, _*_, _∸_`` on `ℕᵇ`.                            
    A similar simplification is expected for future `fromℤ-homo-`.                      
*  (4) To implement (3), there are added the modules  Algebra.Morphism.ToSetoid,    Algebra.Morphism.TwoMagmas.  ``ToSetoid`` introduces `_≈∘_` - a generalization for `_≗_`.                                  
``TwoMagmas`` implements the following lemma on two magmas:   
"If f and g are mutually inverse maps between A and B, g is congruent, f is a homomorphism, 
then g is a homomorphism."

### CODE REVIEW

**Comment by mechvel** [comment]
Here are the responses to the notices on the previous commit version.
src/Data/Nat/Binary/Minus.agda                                                            
...
``open import Data.Fin using () renaming (zero to 0F; suc to sucF)``                          
          
@gallais                                                                                
> Instead of renaming these and writing 0F, sucF 0F and sucF (sucF 0F),                   
> you could use ``#_``: all your cases are concrete so Agda should see that                   
> you can indeed embed 0, 1, and 2 into Fin 3.                                            
                                                                                          
Done.

```
2[1+ x ] ∸ 1+[2 y ] with x <? y                                                           
... | yes _ = 0ᵇ                                                                          
... | no  _ = 1+[2 (x ∸ y) ] 
```
@gallais:
> Same comments as earlier: avoid yes / no whenever you do not need the proofs            
> and use does instead. This will give you more efficient functions (essentially          
> computing a boolean).                                                                   
                                                                                          
I tried there                                                                             
```                                                                                       
2[1+ x ] ∸ 1+[2 y ] with does (x <? y)                                                    
... | true  = 0ᵇ                                                                          
... | false = 1+[2 (x ∸ y) ]                                                              
```                                                                                       
And it reports                                                                            
"The pattern variable true has the same name as the constructor  Agda.Builtin.Bool.Bool.true                                                              
 when checking the clause   Data.Nat.Binary.Minus.with-234 x y true = 0ᵇ                                             
"                                                                                         
-- no matter whether true, false imported from Bool or not.                                                                            
But a similar code in a certain my application works under  lib-1.2.                      
What makes this difference, I wonder. 
Is this due to --without-K --safe ?

**Comment by mechvel** [comment]
@gallais 
```
src/Data/Nat/Binary/Minus.agda                                                            
x>y⇒x∸y≢0 {x'@(2[1+ x ])} {zero} _ =  subst (_≢ 0ᵇ) x'≡x'∸0 2[1+x]≢0                      
  where                                                                                   
  x'≡x'∸0 = sym (x∸0≡x x')                                                                
```                                                                                      
> I think we can inline such trivial proofs.                                              
                                                                                          
This is only the first pattern for ``x>y⇒x∸y≢0``.            
Sorry, I have separated these patterns with empty lines.                                    
Now I remove these empty lines, to dutifully make this body difficult to read.                                                                                  

And still, if it was a single pattern, and we inline it, then what would we have to write instead of, say,                                              
```  
f x y x>y =  g (x + y) (x>y⇒x∸y≢0 x>y)                                                  
```
?                                                                                         
Probably:
```                                                                                 
  f x y x>y =  g (x + y) x∸y≢0                                                            
               where                                                                      
               x∸y≢0 = subst (_≢ 0ᵇ) (sym (x∸0≡x x')) 2[1+x]≢0  -- (1)                    
```
And each time one will need to invent a proof like (1) ...

**Comment by mechvel** [comment]
@gallais 
```
src/Data/Nat/Binary/Minus.agda                                                                                                 
... | tri≈ _ x≡y _ =  begin                                                               
  toℕ (x ∸ y)  ≡⟨ cong toℕ (x≤y⇒x∸y≡0 {x} {y} x≤y) ⟩                                      
  toℕ 0ᵇ       ≡⟨ refl ⟩                                                                  
```                                
> `≡⟨ refl ⟩`  can be replaced with ≡⟨⟩ (also applies to other lines in the file).           
                                                                                          
Done.

**Comment by mechvel** [comment]
@gallais 
```
fromℕ-homo-∸ :  ∀ m n → fromℕ (m ℕ.∸ n) ≡ (fromℕ m) ∸ (fromℕ n)                           
fromℕ-homo-∸ m n =  begin-equality                                                        
```                                                                                          
> Given that we have fromℕ-toℕ, it feels like we ought to be able to prove a more general lemma. i.e.                                                                
```
>  (f : ℕ → ℕ) (g : ℕᵇ → ℕᵇ) →                                                            
>     (∀ m n → toℕ (g m n) ≡ f (toℕ m) (toℕ n)) →                                            
>     (∀ m n → fromℕ (f m n) ≡ g (fromℕ m) (fromℕ n))                                        
```                                                                                   
> and the converse.                

Probably you mean  ``... (f : Op₂ ℕ) (g : Op₂ ℕᵇ) → ...``.
This is implemented -- see the first message on this PR.
                                                                                          
foo : (f : Op₂ ℕ) (g : Op₂ ℕᵇ) →

File: src/Data/Nat/Properties.agda [hunk 1]
```diff
@@ -554,6 +554,9 @@ suc[pred[n]]≡n {suc n} n≢0 = refl
   { isCommutativeMonoid = +-0-isCommutativeMonoid
   }
 
+∸-magma : Magma 0ℓ 0ℓ
+∸-magma = magma _∸_
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda]: Needs an entry in the changelog

File: src/Data/Nat/Binary/Properties.agda [hunk 2]
```diff
@@ -730,6 +740,15 @@ private
   { isCommutativeMonoid = +-0-isCommutativeMonoid
   }
 
+import Algebra.Properties.CommutativeSemigroup +-commutativeSemigroup
+  as Bin+CSemigroup
+import Algebra.Morphism.TwoMagmas +-magma ℕₚ.+-magma
+  as Magmas+ℕᵇ-ℕ
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Properties.agda]: `import` statements should be at the top of the file

File: CHANGELOG.md [hunk 3]
```diff
@@ -149,3 +161,5 @@ Other minor additions
   *-1-monoid              : Monoid 0ℓ 0ℓ
   *-1-commutativeMonoid   : CommutativeMonoid 0ℓ 0ℓ
   ```
+
+* Several minor proofs added to `Data.Nat.Binary.Properties`.
```
Comment (MatthewDaggitt) [inline CHANGELOG.md]: Please list these

File: src/Data/Nat/Binary/Minus.agda [hunk 4]
```diff
@@ -0,0 +1,364 @@
...
+   module ≡-Reasoning)
+open import Relation.Nullary using (Dec; yes; no)
+open import Relation.Nullary.Negation using (contradiction)
+open import Algebra.FunctionProperties {A = ℕᵇ} _≡_
+open import Algebra.Properties.CommutativeSemigroup +-commutativeSemigroup
+  using (xy∙z≈y∙xz; x∙yz≈y∙xz)
+open import Algebra.Solver.CommutativeMonoid +-0-commutativeMonoid
+
+private module FP-Bin = FuncProp (_≡_ {A = ℕᵇ})
+open Tri
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Please import the constructors from `Relation.Binary` directly rather than opening `Tri` again

File: src/Data/Nat/Binary/Minus.agda [hunk 5]
```diff
@@ -0,0 +1,364 @@
...
+  xN = toℕ x;   yN = toℕ y;   x'N = toℕ x';   y'N = toℕ y'
+
+  xN≤x'N = toℕ-mono-≤ x≤x';   y'N≤yN = toℕ-mono-≤ y'≤y
+
+∸-monoˡ-≤ :  (x : ℕᵇ) → (_∸ x) Preserves _≤_ ⟶ _≤_
+∸-monoˡ-≤ x y≤z =  ∸-mono-≤ y≤z (≤-refl {x})
+
+x∸y≤x :  ∀ x y → x ∸ y ≤ x
+x∸y≤x x y =  begin
+  x ∸ y    ≤⟨ ∸-mono-≤ (≤-refl {x}) (0≤x y) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: You could split this proof out to the right version of `∸-monoˡ-≤`

File: src/Data/Nat/Binary/Minus.agda [hunk 6]
```diff
@@ -0,0 +1,364 @@
...
+*-distribˡ-∸ :  FP-Bin._DistributesOverˡ_ _*_ _∸_
+*-distribˡ-∸ x y z =  begin-equality
+  x * (y ∸ z)                         ≡⟨ sym (fromℕ-toℕ (x * (y ∸ z))) ⟩
+  fromℕ (toℕ (x * (y ∸ z)))           ≡⟨ cong fromℕ (toℕ-homo-* x (y ∸ z)) ⟩
+  fromℕ (k ℕ.* (toℕ (y ∸ z)))         ≡⟨ cong (fromℕ ∘ (k ℕ.*_)) (toℕ-homo-∸ y z) ⟩
+  fromℕ (k ℕ.* (m ℕ.∸ n))             ≡⟨ cong fromℕ (ℕₚ.*-distribˡ-∸ k m n) ⟩
+  fromℕ ((k ℕ.* m) ℕ.∸ (k ℕ.* n))     ≡⟨ fromℕ-homo-∸ (k ℕ.* m) (k ℕ.* n) ⟩
+  fromℕ (k ℕ.* m) ∸ fromℕ (k ℕ.* n)   ≡⟨ cong₂ _∸_ (fromℕ-homo-* k m)
+                                                   (fromℕ-homo-* k n) ⟩
+    (fromℕ k * fromℕ m) ∸ (fromℕ k * fromℕ n)
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Alignment has gone wrong here

File: src/Data/Nat/Binary/Minus.agda [hunk 7]
```diff
@@ -0,0 +1,364 @@
...
+    toℕ (y + (x ∸ y))    ≡⟨ cong toℕ (x+[y∸x]≡y y≤x) ⟩
+    m                    ≡⟨ sym (ℕₚ.m+[n∸m]≡n n≤m) ⟩
+    n ℕ.+ (m ℕ.∸ n)      ≡⟨ ℕₚ.+-comm n (m ℕ.∸ n) ⟩
+    (m ℕ.∸ n) ℕ.+ n      ∎
+
+∸-magma : Magma 0ℓ 0ℓ
+∸-magma = magma _∸_
+
+import Algebra.Morphism.TwoMagmas ∸-magma ℕₚ.∸-magma
+  as Magmas∸ℕᵇ-ℕ
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Import statements should go at the top of the file

File: src/Data/Nat/Binary/Minus.agda [hunk 8]
```diff
@@ -0,0 +1,364 @@
...
+2[1+ x ] ∸ 2[1+ y ] = double (x ∸ y)
+1+[2 x ] ∸ 1+[2 y ] = double (x ∸ y)
+2[1+ x ] ∸ 1+[2 y ] with x <? y
+... | yes _ = 0ᵇ
+... | no _  = 1+[2 (x ∸ y) ]
+1+[2 x ] ∸ 2[1+ y ] with x ≤? y
+... | yes _ = 0ᵇ
+... | no _  = pred (double (x ∸ y))
+
+x∸0≡x : ∀ x → x ∸ 0ᵇ ≡ x
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Please could you have a look at `Data.Nat.Properties` and add sections in the same style?

File: src/Data/Nat/Binary/Minus.agda [hunk 9]
```diff
@@ -0,0 +1,364 @@
...
+  (_≡_; _≢_; _≗_; refl; sym; trans; cong; cong₂; resp₂; subst; magma;
+   module ≡-Reasoning)
+open import Relation.Nullary using (Dec; yes; no)
+open import Relation.Nullary.Negation using (contradiction)
+open import Algebra.FunctionProperties {A = ℕᵇ} _≡_
+open import Algebra.Properties.CommutativeSemigroup +-commutativeSemigroup
+  using (xy∙z≈y∙xz; x∙yz≈y∙xz)
+open import Algebra.Solver.CommutativeMonoid +-0-commutativeMonoid
+
+private module FP-Bin = FuncProp (_≡_ {A = ℕᵇ})
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Why not just open this directly at the top of the file rather than creating a new module? In fact you are already doing this, so I don't think you need this module at all.

File: src/Data/Nat/Binary/Minus.agda [hunk 10]
```diff
@@ -0,0 +1,364 @@
...
+--
+-- Subtraction on Bin and some of its property proofs.
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.Nat.Binary.Minus where
+
+open import Algebra using (Magma)
+import Algebra.FunctionProperties as FuncProp
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: `Algebra.FunctionProperties` is deprecated. Please use `Algebra.Definitions` instead.

File: src/Data/Nat/Binary/Minus.agda [hunk 11]
```diff
@@ -0,0 +1,364 @@
...
+
+odd∸even-for> : ∀ {x y} → x > y → 1+[2 x ] ∸ 2[1+ y ] ≡ pred (double (x ∸ y))
+odd∸even-for> {x} {y} x>y  with x ≤? y
+... | no _    = refl
+... | yes x≤y = contradiction x>y (≤⇒≯ x≤y)
+
+x≤y⇒x∸y≡0 :  ∀ {x y} → x ≤ y → x ∸ y ≡ 0ᵇ
+x≤y⇒x∸y≡0 {zero} {_} _           =  refl
+x≤y⇒x∸y≡0 (inj₁ (even<even x<y)) =  x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 (inj₁ x<y))
+x≤y⇒x∸y≡0 {2[1+ x ]} {2[1+ .x ]} (inj₂ refl) =
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Dot patterns are no longer necessary

File: src/Data/Nat/Binary/Minus.agda [hunk 12]
```diff
@@ -0,0 +1,364 @@
...
+x≤y⇒x∸y≡0 {1+[2 _ ]} {1+[2 _ ]} (inj₁ (odd<odd x<y)) =
+  x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 (inj₁ x<y))
+x≤y⇒x∸y≡0 {1+[2 x ]} {1+[2 .x ]} (inj₂ refl) =
+  x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 (≤-refl {x}))
+
+x∸x≡0 : ∀ x → x ∸ x ≡ 0ᵇ
+x∸x≡0 x =  x≤y⇒x∸y≡0 (≤-refl {x})
+
+x>y⇒x∸y≢0 : ∀ {x y} → x > y → x ∸ y ≢ 0ᵇ
+x>y⇒x∸y≢0 {zero} {_} ()
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: You should be able to omit this case entirely?

File: src/Data/Nat/Binary/Minus.agda [hunk 13]
```diff
@@ -0,0 +1,364 @@
...
+x>y⇒x∸y≢0 {x'@(2[1+ x ])} {zero} _ =  subst (_≢ 0ᵇ) x'≡x'∸0 2[1+x]≢0
+  where
+  x'≡x'∸0 = sym (x∸0≡x x')
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: This proof is short enough that you don't need to inline it. Alternatively you could use the `rewrite` syntax.

File: src/Data/Nat/Binary/Minus.agda [hunk 14]
```diff
@@ -0,0 +1,364 @@
...
+  1+[2 (x∸y + y) ]               ≡⟨ cong 1+[2_] $ sym $ x≥y⇒x≡[x∸y]+y (inj₁ y<x) ⟩
+  1+[2 x ]                       ∎
+  where open ≤-Reasoning;  x∸y = x ∸ y
+x≥y⇒x≡[x∸y]+y {x'@(1+[2 x ])} {1+[2 .x ]} (inj₂ refl) =  sym $ begin-equality
+  (x' ∸ x') + x'  ≡⟨ cong (_+ x') (x∸x≡0 x') ⟩
+  0ᵇ + x'         ≡⟨ sym (+-identityˡ x') ⟩
+  x'              ∎
+  where open ≤-Reasoning
+
+[x+y]∸y≡x :  ∀ x y → (x + y) ∸ y ≡ x
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Please could you stop adding the double spaces after the colons and equals signs. You only do so inconsistently. I know it allows aligning in literate Agda but the standard library doesn't tend to be used for literate Agda.

File: src/Data/Nat/Binary/Minus.agda [hunk 15]
```diff
@@ -0,0 +1,364 @@
...
+∸-magma : Magma 0ℓ 0ℓ
+∸-magma = magma _∸_
+
+import Algebra.Morphism.TwoMagmas ∸-magma ℕₚ.∸-magma
+  as Magmas∸ℕᵇ-ℕ
+fromℕ-homo-∸ :  ∀ m n → fromℕ (m ℕ.∸ n) ≡ (fromℕ m) ∸ (fromℕ n)
+fromℕ-homo-∸ =  Magmas∸ℕᵇ-ℕ.IsHomo⇒IsHomo-rev toℕ fromℕ (cong fromℕ)
+                                       fromℕ-toℕ toℕ-fromℕ toℕ-homo-∸
+
+∸-+ :  ∀ x y o → (x ∸ y) ∸ o ≡ x ∸ (y + o)
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Please look at `Data.Nat.Properties` for what to call this and the following proofs.

File: src/Data/Nat/Binary/Minus.agda [hunk 16]
```diff
@@ -0,0 +1,364 @@
...
+  k = toℕ x;  m = toℕ y;  n = toℕ o;  n≤m = toℕ-mono-≤ o≤y
+
+x+y∸x+z :  ∀ x y z →  (x + y) ∸ (x + z) ≡ y ∸ z
+x+y∸x+z x y z =  begin-equality
+  (x + y) ∸ (x + z)    ≡⟨ sym (∸-+ (x + y) x z) ⟩
+  ((x + y) ∸ x) ∸ z    ≡⟨ cong (_∸ z) ([x+y]∸x≡y x y) ⟩
+  y ∸ z                ∎
+  where open ≤-Reasoning
+
+suc-x∸suc-y :  ∀ x y → suc x ∸ suc y ≡ x ∸ y
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: Please follow the style guide and use square brackets instead of `-` to indicate application in proof names.

File: src/Data/Nat/Binary/Minus.agda [hunk 17]
```diff
@@ -0,0 +1,364 @@
...
+open import Data.Nat.Binary.Base
+open import Data.Nat.Binary.Properties
+import Data.Nat.Properties as ℕₚ
+open import Data.Product using (_×_; _,_; proj₁; proj₂; ∃)
+open import Data.Sum using (inj₁; inj₂)
+open import Data.Vec using ([]; _∷_)
+open import Function using (_∘_; _$_)
+open import Level using (0ℓ)
+open import Relation.Binary using (Tri; _Preserves_⟶_; _Preserves₂_⟶_⟶_)
+open import Relation.Binary.PropositionalEquality as P using
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: At this point I think we can just remove the `using` syntax.

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 18]
```diff
@@ -0,0 +1,56 @@
...
+                                 _∙_ to _∙'_; ∙-cong to ∙'cong; setoid to setoid')
+
+open Definitions A B _≈'_ using (Homomorphic₂)
+open Definitions B A _≈_  using () renaming (Homomorphic₂ to Homomorphic₂')
+open ToSetoid A setoid using (_≈∘_)
+open ToSetoid B setoid' using () renaming (_≈∘_ to _≈'∘_)
+open EqR setoid
+
+id' : B → B
+id' = id
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: What's the point of this?

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 19]
```diff
@@ -0,0 +1,56 @@
...
+
+IsHomo :  Pred (A → B) _
+IsHomo f =  Homomorphic₂ f _∙_ _∙'_
+
+IsHomo-rev :  Pred (B → A) _
+IsHomo-rev f =  Homomorphic₂' f _∙'_ _∙_
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: I don't think adding these new names just for this file is worth it...

File: src/Algebra/Morphism/ToSetoid.agda [hunk 20]
```diff
@@ -0,0 +1,49 @@
...
+
+
+open import Function using (_∘_)
+open import Level using (_⊔_)
+open import Relation.Binary using (Rel; _⇒_; Reflexive; Symmetric;
+                                   Transitive; IsEquivalence; Setoid)
+open import Relation.Binary.PropositionalEquality using (_≡_; refl)
+
+
+module Algebra.Morphism.ToSetoid {α β β=} (A : Set α) (S : Setoid β β=) where
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/ToSetoid.agda]: I don't see you using any of the contents of this file except for `_≈∘_` anywhere in this PR, and in the context `_≈∘_` is used the existing `_≗_` can be used just fine.

Therefore could you remove this file from the PR and you can always add it back in a later PR if you need it?

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 21]
```diff
@@ -0,0 +1,56 @@
...
+
+---------------------------------------------------------------------------------
+-- If f and g are mutually inverse maps between A and B, g is congruent,
+-- f is a homomorphism, then g is a homomorphism.
+
+IsHomo⇒IsHomo-rev : (f : A → B)              → (g : B → A) →
+                    (g Preserves _≈'_ ⟶ _≈_) → g ∘ f ≈∘ id → f ∘ g ≈'∘ id' →
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: You should use `IsInverse` from `Function.Structures` to neatly capture these properties. You then no longer need the magmas as module parameters.

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 22]
```diff
@@ -0,0 +1,56 @@
...
+open import Algebra using (Magma)
+import Algebra.Morphism.Definitions as Definitions
+import Algebra.Morphism.ToSetoid as ToSetoid
+open import Function using (id; _∘_)
+open import Relation.Binary using (_Preserves_⟶_)
+import Relation.Binary.EqReasoning as EqR
+open import Relation.Unary using (Pred)
+
+
+module Algebra.Morphism.TwoMagmas {α α= β β=} (M : Magma α α=) (M' : Magma β β=)
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: After ditching the `Magma` module parameters (described how below) I'd then rename this module `Algebra.Morphism.Consequences` which is more standardised.

File: src/Algebra/Morphism/ToSetoid.agda (hunk 20 above)
Comment (mechvel) [reply src/Algebra/Morphism/ToSetoid.agda]: IsHomo-rev is proved for arbitrary Magmas, in particular, with  _≈∘_.
Instead you suggest to include in the library only its special case for PropositionalEquality.
This looks like a poor design. Because users will program various generalizations for this lemma instead of using standard library. Agda is such a language in which methods tend to be programmed in a general way.

Comment (MatthewDaggitt) [reply src/Algebra/Morphism/ToSetoid.agda]: > Instead you suggest to include in the library only its special case for PropositionalEquality.

Yes you're right, I was getting slightly confused but my point stands for `IsHomo-Rev`. If you use `IsInverse` in `Function.Structures` which works over arbitrary equalities then you no longer need `_≈∘_`.

File: src/Data/Nat/Properties.agda (hunk 1 above)
Comment (mechvel) [reply src/Data/Nat/Properties.agda]: Done.

File: src/Data/Nat/Binary/Properties.agda (hunk 2 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Properties.agda]: But they need the parameter values  +-commutativeSemigroup, +-magma               
(for `ℕᵇ`) which are implemented not at the top of this file but only several lines higher.                                                             
- ?

File: CHANGELOG.md (hunk 3 above)
Comment (mechvel) [reply CHANGELOG.md]: Done.

File: src/Data/Nat/Binary/Minus.agda (hunk 4 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Done.

File: src/Data/Nat/Binary/Minus.agda (hunk 5 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Done.

File: src/Data/Nat/Binary/Minus.agda (hunk 6 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Fixed.

File: src/Data/Nat/Binary/Minus.agda (hunk 7 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: But it uses a parameter value  ∸-magma  implemented above.                        
 (?)

File: src/Data/Nat/Binary/Minus.agda (hunk 8 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Done.

File: src/Data/Nat/Binary/Minus.agda (hunk 9 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Fixed. It remains only  ``open import Algebra.Definitions {A = ℕᵇ} _≡_``                                    
at the top.

File: src/Data/Nat/Binary/Minus.agda (hunk 10 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Fixed. And now, `Op₂` is imported from Algebra.

File: src/Data/Nat/Binary/Minus.agda (hunk 11 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Removed everywhere.

File: src/Data/Nat/Binary/Minus.agda (hunk 12 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Omitted.

File: src/Data/Nat/Binary/Minus.agda (hunk 13 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Changed to ``... = subst (_≢ 0ᵇ) (sym (x∸0≡x x')) 2[1+x]≢0``

File: src/Data/Nat/Binary/Minus.agda (hunk 14 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: I did this not due to literate Agda, but in order to make the source more readable.                                                                    
All right, I remove these doubles.

File: src/Data/Nat/Binary/Minus.agda (hunk 15 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Renamed to ``∸-+-assoc, +-∸-assoc``.

File: src/Data/Nat/Binary/Minus.agda (hunk 16 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Renamed to `suc[x]∸suc[y]`.

File: src/Data/Nat/Binary/Minus.agda (hunk 17 above)
Comment (mechvel) [reply src/Data/Nat/Binary/Minus.agda]: Removed.

File: src/Algebra/Morphism/TwoMagmas.agda (hunk 18 above)
Comment (mechvel) [reply src/Algebra/Morphism/TwoMagmas.agda]: Removed.  Instead ``id {A = B}`` is set in-place (because there are `id` on A and on B, and the type checker reports an unsolved thing).

File: src/Algebra/Morphism/TwoMagmas.agda (hunk 19 above)
Comment (mechvel) [reply src/Algebra/Morphism/TwoMagmas.agda]: Removed.

File: src/Algebra/Morphism/TwoMagmas.agda (hunk 22 above)
Comment (mechvel) [reply src/Algebra/Morphism/TwoMagmas.agda]: This concerns several your last comments.
Please, consider once more the above subject of                                   
Morphism.ToSetoid and Morphism.TwoMagmas.                                         
                                                                                  
* It is strange the you are against `_≈∘_`.                                      
  It is a very natural generalization for `_≗_`,   a generally needed notion.                              
  Its context requires a domain of Set and a codomain of Setoid -- only this.     
  It is evident that one day Standard will introduce such a relation on functions.                                                                      
  With this, there also naturally appears the corresponding Setoid instance on    
  `A → B`.  Generally, a useful thing. You are going to remove this instance.       
  Well, at least `_≈∘_` is used in TwoMagmas.                                       
                                                                                  
* To formulate and to prove the lemma `IsHomo⇒IsHomo-rev`,                      
  there are needed                                                                
  a) two Setoids, b) binary operations ``_∙_, _∙'_`` on these setoids,                
  c) the congruence property for `_∙'_`.                          
                                                                                  
All these requirements together mean just _two magmas_                            
(with adding only a single condition of congruence for  `_∙_`).                       
This is why it is introduced as                                                   
```                                                                               
 module Algebra.Morphism.TwoMagmas ... (M : Magma α α=) (M' : Magma β β=)                       
```                                                                                                
As to f and g in the signature, it is required congruence for g.                  
                                                                                  
Please, see  Algebra.Morphism.TwoMagmas.                                          
It is changed to meet somewhat half of your requirements for this subject.
                                                                                  
You suggest to use `IsInverse` in Function.Structures.                            
It consists of  `isLeftInverse` and  `inverseʳ`. 
And this requires the congruence property for  f.                                  
And this property is not required in the lemma.                                   
So, I use instead AreInverseMaps defined in Algebra.Morphism.TwoMagmas.           
                                                                                  
Please, advice.

**Comment by mechvel** [comment]
Please, consider my commit of January 3.  It overwrites the one of January 2.
It is more close to the requirements by @MatthewDaggitt.

Function.Structures.IsInverse  requires congruence for one of the maps f, g.
But it occurs that  there exists ``Function.Definitions.Inverseᵇ``, which does not require such a congruence.
So, I apply now  Inverseᵇ,  and  Algebra.Morphism.ToSetod  is not needed in this particular PR.
This meets the requirement by @MatthewDaggitt.

(On the other hand,  `_≈∘_` is so evidently useful that one day Standard will include
it and its related Setoid instance -- but as some separate PR).


It occurs that  Function.Definitions.Inverseᵇ
is not as in Function.Structures: it does not require congruece.

File: src/Algebra/Morphism/TwoMagmas.agda (hunk 22 above)
Comment (MatthewDaggitt) [reply src/Algebra/Morphism/TwoMagmas.agda]: > It is a very natural generalization for _≗_, a generally needed notion.

Yes, you're right, it is useful. However a) `Algebra.Morphism.ToSetoid` is not the right place to put it and b) it's not needed by this PR and c) this PR is already huge enough as it is. The smaller this PR is the greater the chance of it getting merged in.

> You suggest to use IsInverse in Function.Structures.
It consists of isLeftInverse and inverseʳ.
And this requires the congruence property for f.
And this property is not required in the lemma.

Hmm well I assumed that adding an extra congruency assumption isn't too harmful. For example you've already done so yourself, note that you've assumed congruency of `_∙_` via `Magma` but not used it. I'm happy with your current solution of using `Inverseᵇ` however.

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 23]
```diff
@@ -0,0 +1,43 @@
...
+-- f is a homomorphism, then g is a homomorphism.
+
+IsHomo⇒IsHomo-rev : (f : A → B)              → (g : B → A)  →
+                    (g Preserves _≈'_ ⟶ _≈_) → Inverseᵇ f g →
+                    Homomorphic₂ f _∙_ _∙'_  → Homomorphic₂' g _∙'_ _∙_
+IsHomo⇒IsHomo-rev f g gCong (f∘g=id , g∘f=id) fHomo y y' = begin
+  g (y ∙' y')       ≈⟨ gCong (∙'cong y=fx y'=fx') ⟩
+  g (f x ∙' f x')   ≈⟨ gCong (≈'sym (fHomo x x')) ⟩
+  g (f (x ∙ x'))    ≈⟨ g∘f=id (x ∙ x') ⟩
+  x ∙ x'            ≈⟨ ≈refl ⟩
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: This should be `≡⟨⟩`.

I'd also recommending expanding out everything. I think the reassignments to `x` just confuse things... You can then just use `x` and `y` instead of `y` and `y'`  which are much easier to read.

File: src/Algebra/Morphism/TwoMagmas.agda [hunk 24]
```diff
@@ -0,0 +1,43 @@
...
+open EqR setoid
+
+---------------------------------------------------------------------------------
+-- If f and g are mutually inverse maps between A and B, g is congruent,
+-- f is a homomorphism, then g is a homomorphism.
+
+IsHomo⇒IsHomo-rev : (f : A → B)              → (g : B → A)  →
+                    (g Preserves _≈'_ ⟶ _≈_) → Inverseᵇ f g →
+                    Homomorphic₂ f _∙_ _∙'_  → Homomorphic₂' g _∙'_ _∙_
+IsHomo⇒IsHomo-rev f g gCong (f∘g=id , g∘f=id) fHomo y y' = begin
```
Comment (MatthewDaggitt) [inline src/Algebra/Morphism/TwoMagmas.agda]: It would be more conventional to call it `cong` or `g-cong` rather than `gCong`.

File: src/Data/Nat/Binary/Minus.agda [hunk 25]
```diff
@@ -0,0 +1,368 @@
...
+x≤y⇒x∸y≡0 (inj₁ (even<even x<y)) = x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 (inj₁ x<y))
+x≤y⇒x∸y≡0 {2[1+ x ]} {2[1+ x ]} (inj₂ refl) =
+  x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 {x} {x} (inj₂ refl))
+x≤y⇒x∸y≡0 {2[1+ x ]} {1+[2 y ]} (inj₁ (even<odd x<y)) with x <? y
+... | yes _  = refl
+... | no x≮y = contradiction x<y x≮y
+x≤y⇒x∸y≡0 {1+[2 x ]} {2[1+ y ]} (inj₁ (odd<even x≤y)) with x ≤? y
+... | yes _  = refl
+... | no x≰y = contradiction x≤y x≰y
+x≤y⇒x∸y≡0 {1+[2 _ ]} {2[1+ _ ]} (inj₂ ())
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: This case is not needed.

File: src/Data/Nat/Binary/Minus.agda [hunk 26]
```diff
@@ -0,0 +1,368 @@
...
+
+x≤y⇒x∸y≡0 : ∀ {x y} → x ≤ y → x ∸ y ≡ 0ᵇ
+x≤y⇒x∸y≡0 {zero} {_} _           = refl
+x≤y⇒x∸y≡0 (inj₁ (even<even x<y)) = x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 (inj₁ x<y))
+x≤y⇒x∸y≡0 {2[1+ x ]} {2[1+ x ]} (inj₂ refl) =
+  x≡0⇒double[x]≡0 (x≤y⇒x∸y≡0 {x} {x} (inj₂ refl))
+x≤y⇒x∸y≡0 {2[1+ x ]} {1+[2 y ]} (inj₁ (even<odd x<y)) with x <? y
+... | yes _  = refl
+... | no x≮y = contradiction x<y x≮y
+x≤y⇒x∸y≡0 {1+[2 x ]} {2[1+ y ]} (inj₁ (odd<even x≤y)) with x ≤? y
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Binary/Minus.agda]: This is just `odd∸even-for>` is it not?

**Comment by mechvel** [comment]
I am going somehow to implement (or/and answer to) your new notes.
But my last commit has been tested under  _master_ of about January 3.
And now I need to do changes to this commit under the current master.
So I have saved several my .agda files from my local  .../agda-stdlib-fork,
and commanded 
```
> cd agda-stdlib-fork
> git checkout master
> git pull
```
Many files have changed there.
Before setting my new changes, I run the test:
```
> make clean
> fix-agda-whitespace
> make test
```
The old local tree was tested successfully.
But this time it reports
```
cabal clean && cabal build && cabal install
Warning: The clean command is a part of the legacy v1 style of cabal usage.

Please switch to using either the new project style and the new-clean command
or the legacy v1-clean alias as new-style projects will become the default in
the next version of cabal-install. Please file a bug if you cannot replicate a
working v1- use case with the new-style commands.

For more information, see: https://wiki.haskell.org/Cabal/NewBuild
Warning: lib.cabal:0:0: version with tags
./lib.cabal has been changed. Re-configuring with most recently used options.
If this fails, please run configure manually.
Warning: lib.cabal:0:0: version with tags
Configuring lib-1.3...
cabal: Encountered missing dependencies:
directory >=1.0.0.0 && <1.4

GNUmakefile:26: recipe for target 'Everything.agda' failed
```
I have run  _cabal update_,  and it reports  
```
Warning: The update command is a part of the legacy v1 style of cabal usage.

Please switch to using either the new project style and the new-update command
or the legacy v1-update alias as new-style projects will become the default in
the next version of cabal-install. Please file a bug if you cannot replicate a
working v1- use case with the new-style commands.

For more information, see: https://wiki.haskell.org/Cabal/NewBuild

Downloading the latest package list from hackage.haskell.org
Warning: the 'wget' transport currently doesn't support range requests, which
wastes network bandwidth. To fix this, set 'http-transport' to 'curl' or
'plain-http' in '~/.cabal/config'. Note that the 'plain-http' transport
doesn't support HTTPS.
To revert to previous state run:
    cabal update --index-state='2019-12-29T10:21:54Z'
```
After this, ``make clean && make test`` still reports the same error.

Please, how to fix?

Thanks.

**Comment by MatthewDaggitt** [comment]
Closing in favour of #1127
